US05561145
4-(p-chlorophenylthio)piperidine:
3-p-methoxyphenyl-5(S)-[(4-p-chlorophenylthiopiperidino)methyl]-2-oxazolidinone (hydrochloride), m.p. 233°-236°; [α]D =-30.8° (DMSO);

reactant | 3-p-methoxyphenyl-5(S)-[(4-p-chlorophenylthiopiperidino)methyl]-2-oxazolidinone | COC1=CC=C(C=C1)N1C(O[C@H](C1)CN1CCC(CC1)SC1=CC=C(C=C1)Cl)=O | C22H25ClN2O3S
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(p-chlorophenylthio)piperidine | ClC1=CC=C(C=C1)SC1CCNCC1 | C11H14ClNS
